US05977105
Prepared according to the method described in Example 33a) from toluene (3 ml), aqueous sodium carbonate (2 M, 1.4 ml), (±)-1-(4-bromophenoxy)-4-(3-pyridyl)-2-butanol (0.51 g), ethanol (0.8 ml), 2,4-dichlorobenzeneboronic acid (0.32 g) and tetrakis(triphenylphosphine)palladium(0) (75 mg) with heating at 120° C. for 4 hours. The residue obtained after work up was purified by column chromatography over silica eluting with dichloromethane then ether then ethyl acetate to give (±)-1-(2',4'-dichlorobiphenyl-4-yloxy)-4-(3-pyridyl)-2-butanol (0.48 g). A sample that had been purified by reverse phase HPLC was converted to the oxalate salt by treatment of the parent compound in ether with a saturated ethereal solution of oxalic acid. The precipitated salt was filtered to give the title compound (0.23 g).

reactant | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
reactant | sodium carbonate | 2 M, 1.4 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | (±)-1-(4-bromophenoxy)-4-(3-pyridyl)-2-butanol | 0.51 g | BrC1=CC=C(OCC(CCC=2C=NC=CC2)O)C=C1 | C15H16BrNO2
reactant | 2,4-dichlorobenzeneboronic acid | 0.32 g | ClC1=C(C=CC(=C1)Cl)B(O)O | C6H5BCl2O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 75 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethanol | 0.8 ml | C(C)O | C2H6O
product | (±)-1-(2',4'-dichlorobiphenyl-4-yloxy)-4-(3-pyridyl)-2-butanol | 0.48 g | ClC1=C(C=CC(=C1)Cl)C1=CC=C(C=C1)OCC(CCC=1C=NC=CC1)O | C21H19Cl2NO2
